US09422271B2
2-(4-(5-amino-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)phenyl) acetonitrile (Compound 92)
To a solid mixture of 2-(4-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-5-nitropyrimidin-2-yl)phenyl)acetonitrile 45 mg, 0.125 mmol, 1 equivalent) and NH4Cl (3.6 g, 1.375 mmol, 11 equiv) was added EtOH (4 ml) and H2O (2 mL). The reaction mixture was heated to reflux under nitrogen atmosphere and iron powder (25 mg, 0.438 mmol, 3.5 equiv.) was added. The resulting mixture was continued to reflux for 0.5 h. The mixture was filtered immediately with a hot filter under reduced pressure. EtOH and water were removed under reduce pressure. The residue was washed by water. The title compound 2-(4-(5-amino-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)phenyl) acetonitrile (Compound 92) (10 mg, 24.4%) was obtained. LC-MS (m/z)=332.1 [M+H]+; 1H NMR (400 MHz, DMSO-d6): δ 0.71 (s, 2H), 0.93 (s, 2H), 1.92 (s, 1H), 3.83 (s, 2H), 5.30 (s, 2H), 6.21 (s, 2H), 7.04 (s, 1H), 7.21 (d, J=6.0 Hz, 1H), 7.53 (s, 1H), 7.70 (s, 1H), 8.30 (s, 1H), 9.78 (s, 1H), 12.03 (s, 1H).

reactant | 2-(4-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-5-nitropyrimidin-2-yl)phenyl)acetonitrile | 0.125 mmol, 45 mg, 1 equivalent | C1(CC1)C1=CC(=NN1)NC1=NC(=NC=C1[N+](=O)[O-])C1=CC=C(C=C1)CC#N | C18H15N7O2
reactant | NH4Cl | 1.375 mmol, 3.6 g, 11 equiv | [NH4+].[Cl-]
reactant | EtOH | 4 ml | CCO | C2H6O
catalyst | iron | 0.438 mmol, 25 mg, 3.5 equiv. | [Fe] | Fe
solvent | H2O | 2 mL | O | H2O
product | 2-(4-(5-amino-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)phenyl) acetonitrile | 10 mg, 24.4% | NC=1C(=NC(=NC1)C1=CC=C(C=C1)CC#N)NC1=NNC(=C1)C1CC1 | C18H17N7
